US03987047
2,3,4,5-Tetrahydro-1H-2-azepino[4,3-b]quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline and ethyl chloroformate analogous to Example 63.

reactant | 2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline | C1NCCCC2=NC=3C=CC=CC3C=C21 | C13H14N2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 2,3,4,5-Tetrahydro-1H-2-azepino[4,3-b]quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 81% | Cl.C(C)OC(=O)N1CC=2C(=NC=3C=CC=CC3C2)CCC1 | InChI=1S/C16H18N2O2.ClH/c1-2-20-16(19)18-9-5-8-15-13(11-18)10-12-6-3-4-7-14(12)17-15;/h3-4,6-7,10H,2,5,8-9,11H2,1H3;1H
